US03971773
B. 16α-Allyloxy-21-chloro-11β,17-dihydroxypregn-4-ene-3,20-dione
A solution of 16α-allyloxy-11β,17,21-trihydroxypregn-4-ene-3,20-dione, 21-methanesulfonate (4.6 mmoles) in 60 ml of dimethylformamide is refluxed for 1 hour under nitrogen with 5 g of lithium chloride. The solution is cooled, diluted with water and filtered. The solid is dissolved in chloroform, washed with 5% hydrochloric acid, water, dried, and evaporated in vacuo to yield the title compound.

reactant | 16α-allyloxy-11β,17,21-trihydroxypregn-4-ene-3,20-dione | C(C=C)O[C@H]1[C@](C(CO)=O)([C@]2(C[C@@H]([C@@H]3[C@]4(CCC(C=C4CC[C@H]3[C@@H]2C1)=O)C)O)C)O | C24H34O6
reactant | lithium chloride | 5 g | [Cl-].[Li+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 16α-Allyloxy-21-chloro-11β,17-dihydroxypregn-4-ene-3,20-dione | C(C=C)O[C@H]1[C@](C(CCl)=O)([C@]2(C[C@@H]([C@@H]3[C@]4(CCC(C=C4CC[C@H]3[C@@H]2C1)=O)C)O)C)O | C24H33ClO5
